US09062056B2
2-[1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-ylmethyl]-pentanoic acid
To a stirred solution of 2-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-ylmethyl]-pentanoic acid ethyl ester (85 mg, 0.20 mmol) in dioxane (5 ml) and water (1.5 ml) was added lithium hydroxide monohydrate (41 mg, 0.98 mmol) at room temperature. After stirring overnight the reaction appeared complete. The reaction was concentrated to low volume and diluted with water (˜20 ml). Acidified using HOAc and collected the resulting precipitate via filtration. The product was suspended in 2 ml of 1:1 MeOH/acetonitrile, filtered and washed with acetonitrile. The solid was dried on house vacuum to give 25 mg (31%) of the title compound. LCMS, M++1, m/z: 407.91.

reactant | 2-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-ylmethyl]-pentanoic acid ethyl ester | 0.20 mmol, 85 mg | C(C)OC(C(CCC)CN1C(N(C=2C1=NC=CC2)CC2=CN(C1=CC=CC(=C21)C)C)=O)=O | C25H30N4O3
reactant | lithium hydroxide monohydrate | 0.98 mmol, 41 mg | O.[OH-].[Li+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.5 ml | O | H2O
product | 2-[1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-2-oxo-1,2-dihydro-imidazo[4,5-b]pyridin-3-ylmethyl]-pentanoic acid | 25 mg, 31% | CN1C=C(C2=C(C=CC=C12)C)CN1C(N(C2=NC=CC=C21)CC(C(=O)O)CCC)=O | C23H26N4O3
